US07812160B2
This crude methyl [4-chloro-2-{4-[(4-chlorobenzoyl)(methyl)amino]benzyl}-6-(dimethyl-amino)pyrimidin-5-yl]acetate was dissolved in THF (3 mL) and treated with 1N NaOH (2 mL) and stirred at room temperature for 24 hour. Et2O was added and the organic phase was siphoned off. The remaining aqueous layer was acidified with 6N HCl to pH˜5 and the separated solids were collected by suction and rinsed with water and diisopropyl ether. Drying under high vacuum at room temperature for 4 hours then gave [4-chloro-2-{4-[(4-chlorobenzoyl)(methyl)amino]-benzyl}-6-(dimethylamino)pyrimidin-5-yl]acetic acid (0.029 g, 27% yield) as a pale yellow powder.

reactant | methyl [4-chloro-2-{4-[(4-chlorobenzoyl)(methyl)amino]benzyl}-6-(dimethyl-amino)pyrimidin-5-yl]acetate | ClC1=NC(=NC(=C1CC(=O)OC)N(C)C)CC1=CC=C(C=C1)N(C)C(C1=CC=C(C=C1)Cl)=O | C24H24Cl2N4O3
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | Et2O | CCOCC | C4H10O
reactant | HCl | 6N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | [4-chloro-2-{4-[(4-chlorobenzoyl)(methyl)amino]-benzyl}-6-(dimethylamino)pyrimidin-5-yl]acetic acid | 0.029 g, 27% yield | ClC1=NC(=NC(=C1CC(=O)O)N(C)C)CC1=CC=C(C=C1)N(C)C(C1=CC=C(C=C1)Cl)=O | C23H22Cl2N4O3
